US04931436
11-[[3-[4-(Diethylamino)butyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[4-(diethylamino)butyl]piperidine in a yield of 90% of theory. Colourless crystals, m.p. 182°-184° C. (ethanol).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[4-(diethylamino)butyl]piperidine | C(C)N(CCCCC1CNCCC1)CC | C13H28N2
solvent | ethanol | C(C)O | C2H6O
product | 11-[[3-[4-(Diethylamino)butyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 90% | Cl.C(C)N(CCCCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | InChI=1S/C26H35N5O2.ClH/c1-3-29(4-2)17-8-7-11-20-12-10-18-30(19-20)26(33)31-23-15-6-5-13-21(23)25(32)28-22-14-9-16-27-24(22)31;/h5-6,9,13-16,20H,3-4,7-8,10-12,17-19H2,1-2H3,(H,28,32);1H
